US07858621B2
To a suspension of 3-(2-chloro-6-trifluoromethyl-pyridin-3-yl)-acrylic acid (40 mg, 0.158 mmol) and 1-butanol (0.029 ml, 0.316 mmol) in DMF (2 mL) was added NaH (19 mg, 0.47 mmol) at 0° C. The mixture was stirred for 12 hours at room temperature. The residue was diluted with EtOAc and water. The organic layer was washed with 1N HCl, saturated sodium bicarbonate and brine, dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure. The crude residue was column-chromatographed to give 3-(2-butoxy-6-trifluoromethyl-pyridin-3-yl)-acrylic acid (21 mg, 92%).

reactant | 3-(2-chloro-6-trifluoromethyl-pyridin-3-yl)-acrylic acid | 0.158 mmol, 40 mg | ClC1=NC(=CC=C1C=CC(=O)O)C(F)(F)F | C9H5ClF3NO2
reactant | 1-butanol | 0.316 mmol, 0.029 ml | C(CCC)O | C4H10O
reactant | NaH | 0.47 mmol, 19 mg | [H-].[Na+]
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | water | O | H2O
product | 3-(2-butoxy-6-trifluoromethyl-pyridin-3-yl)-acrylic acid | 21 mg, 92% | C(CCC)OC1=NC(=CC=C1C=CC(=O)O)C(F)(F)F | C13H14F3NO3
